US06177448B1
b) Preparation of 2-allyloxy-3-amino pyridine
To the solution of 2-allyloxy-3-nitropyridine(28.68 mmol) in ethanol (30 ml), Tin (II) chloride (143.4 mmol) may be added. The reaction mixture can be stirred at reflux for 4 hours and then can be cooled to room temperature. NaHCO3 (aq) can be added until pH=7 is achieved. Then the reaction mixture can be extracted with ethyl acetate (3×). The combined organic layer can be dried over MgSO4, filtered and concentrated under reduced pressure to give desired product.

reactant | 2-allyloxy-3-nitropyridine | 28.68 mmol | C(C=C)OC1=NC=CC=C1[N+](=O)[O-] | C8H8N2O3
reactant | Tin (II) chloride | 143.4 mmol | [Sn](Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-allyloxy-3-amino pyridine | C(C=C)OC1=NC=CC=C1N | C8H10N2O
